US07253192B2
A] 2-{4-[5-(4-Chloro-phenyl)-pent-4-ynyloxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
In analogy to the procedure described in example 13B], 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester (example 13A]) and 1-chloro-4-iodo-benzene gave the title compound as a yellow viscous oil.

reactant | 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCCC#C)C)C)=O | C18H24O4
reactant | 1-chloro-4-iodo-benzene | ClC1=CC=C(C=C1)I | C6H4ClI
product | 2-{4-[5-(4-Chloro-phenyl)-pent-4-ynyloxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCCC#CC1=CC=C(C=C1)Cl)C)=O | C24H27ClO4
